US06696473B2
Preparation of N-(3-{3-Benzyl-5-[5-(2-chloroethoxy)-3-methyl-3H-benzothiazol-2-ylidene]-4-oxothiazolidin-2-ylideneamino}-4-ethylaminophenyl)-2-methoxyacetamide
In a manner similar to Example 30, intermediate 4′-ethylamino-2-methoxy-3′-nitroacetanilide was hydrogenated and then condensed with 3-benzyl-5-[5-(2-chloroethoxy)-3-methyl benzothiazol-2-ylidene]-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate to afford the title compound. MS(ESI): 638 (M H+).

reactant | 4′-ethylamino-2-methoxy-3′-nitroacetanilide | C(C)NC1=C(C=C(NC(COC)=O)C=C1)[N+](=O)[O-] | C11H15N3O4
reactant | 3-benzyl-5-[5-(2-chloroethoxy)-3-methyl benzothiazol-2-ylidene]-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)N1[CH2+](SC(C1=O)=C1SC2=C(N1C)C=C(C=C2)OCCCl)SC
product | N-(3-{3-Benzyl-5-[5-(2-chloroethoxy)-3-methyl-3H-benzothiazol-2-ylidene]-4-oxothiazolidin-2-ylideneamino}-4-ethylaminophenyl)-2-methoxyacetamide | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC2=C(N1C)C=C(C=C2)OCCCl)=NC=2C=C(C=CC2NCC)NC(COC)=O | C31H32ClN5O4S2
